US09382197B2
To a 1-L round-bottom flask was added (9H-fluoren-9-yl)methyl (1R)-2-methyl-1-(4-(tetrahydro-2H-pyran-2-yloxycarbamoyl)phenyl)propylcarbamate (10.0 g, 0.0195 mol), ethanol (588 mL), and piperidine (51.7 mL). The solution was stirred at rt for 16 h, then concentrated to give a solid. Flash column chromatography gave 4-((R)-1-amino-2-methylpropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide (2.3 g, 41%). 1H NMR (CDCl3, 400 MHz) δ7.59 (d, J=8.0 Hz, 2H), 7.23 (d, J=8.0 Hz, 2H), 5.00 (m, 1H), 3.95 (m, 1H), 3.59 (m, 2H), 1.83 (m, 4H), 1.57 (m, 3H), 1.20 (m, 1H), J=6.8 Hz, 3H), 0.67 (t, J=6.8 Hz, 3H).

reactant | (9H-fluoren-9-yl)methyl (1R)-2-methyl-1-(4-(tetrahydro-2H-pyran-2-yloxycarbamoyl)phenyl)propylcarbamate | 0.0195 mol, 10.0 g | CC([C@H](C1=CC=C(C=C1)C(NOC1OCCCC1)=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C31H34N2O5
reactant | piperidine | 51.7 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 588 mL | C(C)O | C2H6O
product | 4-((R)-1-amino-2-methylpropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide | 2.3 g, 41% | N[C@H](C(C)C)C1=CC=C(C(=O)NOC2OCCCC2)C=C1 | C16H24N2O3
